US04374748
4'-Bromo-4-hydroxybiphenyl is reacted with copper (I) cyanide to obtain 4'-cyano-4-hydroxybiphenyl (this substance is known), which is then reacted with a β-alkyloxyethylbromide in the presence of an alkaline material.

reactant | 4'-Bromo-4-hydroxybiphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | copper (I) cyanide | [Cu]C#N
product | 4'-cyano-4-hydroxybiphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
